Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],2.1832340978
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8][H:9],7.226634870760001
[H:1][C:2]([H:3])=[C:4]1[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:12]([C:9]([C:5]=[C:6]([H:7])[H:8])([H:10])[H:11])([H:13])[H:14],3.63679631896
[H:1][C:2]#[C:3][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.81045365015
[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.29166752855
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.6072921702
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12].[O:1],8.2881039548
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][O:2][C:3],4.91551567942
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],3.62729887558
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],-5.25404385381
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1],4.20989502145
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-8.14515369
[H:6].[O:1]=[C:2]=[C:3][O:4][C:5]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.077881079719999
[H:9].[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.82517839607
[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.78217648401
[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11],-7.4298999212
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6][O:7][H:8],4.59848052458
[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-3.98986604845
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2][H:3],5.323435755909999
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:4],4.121107192709999
[C:1]#[C:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.15762839578
[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[C:11]([H:12])[H:13],0.30426023389
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]1=[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]=[C:11]1[H:12],1.51621510511
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],2.5477949244
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.93737562165
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]1=[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9][C:10]1([H:11])[H:12],1.73333370086
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],4.3054422742
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-2.73198344076
[C:1]#[C:2][O:3][O:4].[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-3.78766700296
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5],1.93636957525
